US07476399B2
a. (R)-2-(benzo[d][1,3]dioxole-6-carboxamido)-4-methylpentanoic acid
Prepared in a similar manner to example 1 using benzo[d][1,3]dioxole-5-carbonyl chloride and D-Leucine. Yield: 55%. MS (M+H, 280.2).

reactant | benzo[d][1,3]dioxole-5-carbonyl chloride | O1COC2=C1C=CC(=C2)C(=O)Cl | C8H5ClO3
reactant | D-Leucine | N[C@H](CC(C)C)C(=O)O | C6H13NO2
product | (R)-2-(benzo[d][1,3]dioxole-6-carboxamido)-4-methylpentanoic acid | Yield: 55% | O1COC2=C1C=C(C=C2)C(=O)N[C@@H](C(=O)O)CC(C)C | C14H17NO5
